US03959322
Add 3N hydrochloric acid (1 cc.) to a solution of 13β-n-propyl-3-methoxy-gona-2,5(10)-dien-17β-ol (0.61 g.) in boiling methanol (70 cc.) and cool the mixture immediately and allow to stand for 41/2 hours. Pour the product into water (300 cc.) and extract the mixture with ether; work up in the usual way to give as residue an amorphous solid (0.6 g.). Crystallize this solid from a mixture of ether and hexane. Take up the resulting solid in benzene (20 cc.) and chromatograph on a column of neutral alumina. Elute the product with ether and recrystallize from a mixture of ether and hexane to obtain 13β-n-propyl-17β-hydroxy-gon-4-en-3-one (0.08 g.), mp. 126°-7°; ultraviolet absorption peak at 240 mμ (ε15,000); infrared absorption peaks at 2.92, 6.01, 6.20 μ. Evaporation of the mother liquors gives a second, polymorphic, form of the same substance (0.17 g.), m.p. 144°-5° , having ultraviolet and infrared spectra identical with the first material; a mixture of the two forms has m.p. 144°-5°.

reactant | hydrochloric acid | 3N, 1 cc | Cl | ClH
reactant | 13β-n-propyl-3-methoxy-gona-2,5(10)-dien-17β-ol | 0.61 g | C(CC)[C@]12[C@H](CC[C@H]2[C@H]2[C@H](CC1)C=1CC=C(CC1CC2)OC)O | C21H32O2
reactant | methanol | 70 cc | CO | CH4O
solvent | water | 300 cc | O | H2O
product | 13β-n-propyl-17β-hydroxy-gon-4-en-3-one | 0.08 g | C(CC)[C@]12[C@H](CC[C@H]2[C@H]2[C@H](CC1)[C@H]1CCC(C=C1CC2)=O)O | C20H30O2
